US05688929
Preparation of ethyl β-D-galactofuranoside uronic acid
50 g (0.2 mole) of sodium ethyl β-D-galactofuranoside uronate prepared according to Example No. 10 are solubilized in water (10% solution).

reactant | sodium ethyl β-D-galactofuranoside uronate | 0.2 mole, 50 g | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O1)[C@H](O)C(=O)[O-])CC.[Na+]
solvent | water | O | H2O
product | ethyl β-D-galactofuranoside uronic acid | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O1)[C@H](O)C(=O)O)CC | C8H14O7
